US04145432
To a solution of diethyl 2-methyl-4-(2-nitrophenyl)-6-diethoxymethyl-1,4-dihydropyridine-3,5-dicarboxylate (1.1563 g) in acetone (10 ml) was added 6N-hydrochloric acid (2.5 ml) and stirred at room temperature for 30 minutes. After removing acetone, water was added to the residue and neutralized with aqueous solution of sodium bicarbonate. The precipitated solid was collected by filtration, washed with water and then dried to give yellowish powder of diethyl 2-methyl-4-(2-nitrophenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate (0.9407 g). The product was recrystallized from a mixture of ethanol and n-hexane to give the pure product, m.p. 101° to 103° C.

reactant | diethyl 2-methyl-4-(2-nitrophenyl)-6-diethoxymethyl-1,4-dihydropyridine-3,5-dicarboxylate | 1.1563 g | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)C(OCC)OCC | C23H30N2O8
reactant | hydrochloric acid | 2.5 ml | Cl | ClH
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | diethyl 2-methyl-4-(2-nitrophenyl)-6-formyl-1,4-dihydropyridine-3,5-dicarboxylate | 0.9407 g | CC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC)C=O | C19H20N2O7
